* source TP1_SRA
X_U1A         N00653 N00224 N00399 N00419 N00232 LM324
X_U1B         N00681 N00236 N00399 N00419 N00315 LM324
R_R1         N00224 N00236  1k  
R_R2         N00224 N00232  1k  
R_R3         N00236 N00315  1k  
R_R4         0 N00224  1k  
R_R5         N00232 N00236  1k  
V_V1         N00399 0 10Vdc
V_V2         0 N00419 10Vdc
R_R6         0 N00315  1000000  
V_V3         N00653 0 1Vdc
V_V4         N00681 0 1Vdc
