* source TP1_SRA
X_U1A         N00655 N00224 N03137 N03151 V01 LM324
X_U1B         N03639 N00236 N03137 N03151 V02 LM324
R_R1         N00224 N00236  1k  
R_R2         N00224 V01  1k  
R_R3         N00236 V02  1k  
R_R4         0 N00224  1k  
R_R5         V01 N00236  1k  
R_R6         0 V02  1meg  
V_V1         N00655 0 2V
V_V2         N03639 0 4V
V_V+         N03137 0 10Vdc
V_V-         0 N03151 10Vdc
